US09315495B2
To a solution of tert-butyldimethyl(3-(thiophen-2-yl)propoxy)silane (787 mg, 3.07 mmol) in 15 mL 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (1.35 mL, 2.5 M in hexanes) dropwise over 5 minutes. The resulting solution was stirred at −78° C. for 1 h. Dimethylformamide (1.18 mL, 15.35 mmol) was added dropwise and the reaction mixture was allowed to warm to room temperature before being poured into 100 mL of 1 N hydrochloric acid. Organics were extracted with ether (2×75 m), dried over magnesium sulfate, filtered and concentrated to give crude 5-(3-((t-butyldimethylsilyl)oxy)propyl)thiophene-2-carbaldehyde. Used without further purification.

reactant | tert-butyldimethyl(3-(thiophen-2-yl)propoxy)silane | 3.07 mmol, 787 mg | C(C)(C)(C)[Si](OCCCC=1SC=CC1)(C)C | C13H24OSSi
reactant | n-butyllithium | 2.5 M, 1.35 mL | C(CCC)[Li]
reactant | Dimethylformamide | 15.35 mmol, 1.18 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 5-(3-((t-butyldimethylsilyl)oxy)propyl)thiophene-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(S1)C=O | C14H24O2SSi
